US04006017
Preparation of N-ethyl-3-tricyanovinylcarbazole
About 1 gram (5.24 × 10-3 3 moles) N-ethyl carbazole and 20 milliliters of dimethylformamide are placed in a 50 milliliter one neck flask equipped with a magnetic stirring bar and a nitrogen inlet tube. The flask is purged of air with nitrogen, the contents of the flask agitated and about 0.67 grams (5.24 × 10-3 moles) of tetracyanoethylene introduced into the flask. Upon the admixture of these materials the contents of the flask turns deep blue. This mixture is heated to 100° C for 20 hours, the contents of the flask poured into 60 milliliters of water at room temperature and the redish brown crystals thereby precipitated isolated from the solution by filtration and washed with ethanol. Yield: 1.13 grams brick red crystals m. p. 239°-241° C. Analysis: calculated, carbon 77, hydrogen 4.08, nitrogen 18.92; actual, carbon 77.24, hydrogen 4.07, nitrogen 18.78.

reactant | N-ethyl carbazole | 3 moles, 1 gram | C(C)N1C2=CC=CC=C2C=2C=CC=CC12 | C14H13N
reactant | dimethylformamide | 20 milliliters | CN(C=O)C | C3H7NO
reactant | tetracyanoethylene | 5.24 × 10-3 moles, about 0.67 grams | C(#N)C(=C(C#N)C#N)C#N | C6N4
solvent | water | 60 milliliters | O | H2O
product | N-ethyl-3-tricyanovinylcarbazole | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)C(=C(C#N)C#N)C#N | C19H12N4
